US08497397B2
(9a) 4-(2-Cyclopropylethoxy)benzoic acid
Methyl 4-hydroxybenzoate (8.83 g, 58.0 mmol), 2-cyclopropylethanol (5.13 g, 59.6 mmol), and triphenylphosphine (15.7 g, 59.9 mmol) were dissolved in THF (250 mL). Then, diethyl azodicarboxylate (29.8 mL, 40% toluene solution, 59.6 mmol) was added thereto under ice-cooling while stirring. The mixture was stirred at room temperature for 2 days, and then water (200 mL) was added to the reaction solution. The resulting mixture was extracted with ethyl acetate twice. The organic layers were combined, washed with saturated brine, and dried over anhydrous magnesium sulfate, and then the solvent was evaporated. The resulting residue was dissolved in diethyl ether. The produced precipitate was removed by filtration, and diethyl ether was evaporated. This filtration procedure was repeated twice, and the residue was purified by silica gel column chromatography (hexane:ethyl acetate, 20:1, v/v) to give an oily substance (13.2 g). All this oily substance was dissolved in ethanol (200 mL), and a 2 M lithium hydroxide aqueous solution (60 mL, 120 mmol) was added thereto. The mixture was stirred at 60° C. for 50 minutes, and then 10% hydrochloric acid (40 mL) was added thereto under ice-cooling. The resulting mixture was extracted with ethyl acetate twice. The organic layers were combined, washed with saturated brine, and dried over anhydrous magnesium sulfate. Then, the solvent was evaporated. The resulting residue was suspended in diisopropyl ether, and the precipitate was collected by filtration and dried under reduced pressure to give 9.28 g of the title compound (powder, yield: 78%).

reactant | Methyl 4-hydroxybenzoate | 58.0 mmol, 8.83 g | OC1=CC=C(C(=O)OC)C=C1 | C8H8O3
reactant | 2-cyclopropylethanol | 59.6 mmol, 5.13 g | C1(CC1)CCO | C5H10O
reactant | triphenylphosphine | 59.9 mmol, 15.7 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 59.6 mmol, 29.8 mL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | lithium hydroxide | 120 mmol, 2 M, 60 mL | [OH-].[Li+]
reactant | hydrochloric acid | 40 mL | Cl | ClH
solvent | THF | 250 mL | C1CCOC1 | C4H8O
solvent | ethanol | 200 mL | C(C)O | C2H6O
solvent | water | 200 mL | O | H2O
product | 4-(2-Cyclopropylethoxy)benzoic acid | 9.28 g, yield: 78% | C1(CC1)CCOC1=CC=C(C(=O)O)C=C1 | C12H14O3
